US08097628B2
(j) 1,1-Dimethylethyl (1-{[(1R)-3,8-dioxo-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylen-1-yl]methyl}-4-piperidinyl)carbamate
A solution of [(1S)-3,8-dioxo-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylen-1-yl]methyl methanesulfonate (1.05 g, 3.53 mmol) in dry CH3CN (50 ml) at room temperature under argon was treated with pyridine (0.343 ml, 4.24 mmol), followed by 1,1-dimethylethyl 4-piperidinylcarbamate (0.884 g, 4.24 mmol). The mixture was heated at 70° C. for 1.5 h and then at 90° C. for 3 h. LCMS showed ˜25% of product. So 0.5 eq of pyridine and 0.5 eq of 1,1-dimethylethyl 4-piperidinylcarbamate were added and the reaction was heated at 90° C. overnight and then stirred at room temperature for 2 days. The reaction was complete. The solvent was evaporated and the residue partitioned between sat NaHCO3 and 20% MeOH/DCM (100 ml/100 ml). The layers were separated and the aqueous layer was extracted with 20% MeOH/DCM again (2×100 ml). The combined organic extracts were dried over MgSO4, filtered and evaporated to afford 1.7 g of crude which was purified by silica chromatography using a 0-5% MeOH/DCM gradient to afford the product as a yellow solid (0.57 g, 40.2%).

reactant | [(1S)-3,8-dioxo-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylen-1-yl]methyl methanesulfonate | 3.53 mmol, 1.05 g | CS(=O)(=O)OC[C@@H]1CN2C(C=NC=3C=CC(N1C23)=O)=O | C11H11N3O5S
reactant | pyridine | 4.24 mmol, 0.343 ml | N1=CC=CC=C1 | C5H5N
reactant | 1,1-dimethylethyl 4-piperidinylcarbamate | 4.24 mmol, 0.884 g | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | pyridine | 0.5 eq | N1=CC=CC=C1 | C5H5N
reactant | 1,1-dimethylethyl 4-piperidinylcarbamate | 0.5 eq | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
solvent | CH3CN | 50 ml | CC#N | C2H3N
product | 1,1-Dimethylethyl (1-{[(1R)-3,8-dioxo-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylen-1-yl]methyl}-4-piperidinyl)carbamate | 0.57 g, 40.2% | O=C1N2C[C@H](N3C(C=CC(N=C1)=C32)=O)CN3CCC(CC3)NC(OC(C)(C)C)=O | C20H27N5O4
